US06118009
To a solution of (R)-3,3-diphenyl-1-methylpyrrolidine[1,2-c]-1,3,2-oxazaborole 1M in toluene (7.5 ml, 7.5 mmol) cooled to -10° C., under an argon atmosphere, a solution of catecolborane 1M in THF (100 ml, 100 mmol) is added dropwise. To the resulting mixture a solution of phenyl-(1-methyl-1H-pyrazol-5-yl)ketone, III (9.30 g, 50 mmol) in dry toluene is added. Once the addition has been completed the mixture is stirred for 1 hour at -10° C. and then over night at room temperature. Next, MeOH (10 ml) is carefully added while stirring, which is maintained for 6 hours. The reaction mixture is concentrated to half the volume, washed successively with water and with a solution of saturated NaCl, dried and the solvent evaporated to yield an oil which is purified on a silicagel column, eluted with a mixture of ethyl acetate: petrol ether (7:3) to give (R)-(+)-phenyl-(1-methyl-1H-pyrazol-5-yl)methanol, (+)-II (7.82 g, 83%), whose optical purity as determined by chiral HPLC is 99%. M.p. 81-83° C.; [α]D =+16.6 (c=1.0, CHCl3).

reactant | THF | 100 mmol, 100 ml | C1CCOC1 | C4H8O
reactant | phenyl-(1-methyl-1H-pyrazol-5-yl)ketone | C1(=CC=CC=C1)C(=O)C1=CC=NN1C | C11H10N2O
reactant | MeOH | 10 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7.5 mmol, 7.5 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-(+)-phenyl-(1-methyl-1H-pyrazol-5-yl)methanol | C1(=CC=CC=C1)[C@@H](O)C1=CC=NN1C | C11H12N2O
